US04958029
N-benzyl-5,6-dihydroxy-N-methylisoindolinium iodide
590 mg (2.44 mmol) of N-benzyl-5,6-dihydroxyisoindoline was dissolved in 10 ml of acetone, and 0.16 ml (2.5 mmol) of methyl iodide was added thereto at room temperature. The mixture was left to stand for 4 hours, and the precipitated crystals were collected by filtration and washed with 10 ml of acetone to obtain 733 mg of the above identified compound.

reactant | N-benzyl-5,6-dihydroxyisoindoline | 2.44 mmol, 590 mg | C(C1=CC=CC=C1)N1CC2=CC(=C(C=C2C1)O)O | C15H15NO2
reactant | methyl iodide | 2.5 mmol, 0.16 ml | CI | CH3I
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | N-benzyl-5,6-dihydroxy-N-methylisoindolinium iodide | [I-].C(C1=CC=CC=C1)[N+]1(CC2=CC(=C(C=C2C1)O)O)C | InChI=1S/C16H17NO2.HI/c1-17(9-12-5-3-2-4-6-12)10-13-7-15(18)16(19)8-14(13)11-17;/h2-8H,9-11H2,1H3,(H-,18,19);1H
